### PR TITLE
[Merged by Bors] - feat(Topology): add definition for subpaths

### PR DESCRIPTION
**Pull request by Sebi-Kumar**
Define subpaths as restrictions of paths to subintervals, reparameterized to have domain
`[0, 1]` and possibly with a reverse of direction. Prove their basic properties.

This serves as an alternative to `Path.truncate` which is useful for the explicit construction of certain homotopies, in particular regarding the concatenation of subpaths.

---

To provide additional context, this is my first time contributing to Mathlib,
and I am doing so as a part of the Fields Undergraduate Summer Research Program
hosted at Western University.

My intention for this file is for it to be used when proving that the fundamental group of the sphere is trivial (following the proof from Hatcher's "Algebraic Topology").

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Subpath.lean [hunk 1]
```diff
@@ -0,0 +1,155 @@
...
+
+/-- The subpath of `γ` from `t₀` to `t₁`. -/
+def subpath (γ : Path a b) (t₀ t₁ : I) : Path (γ t₀) (γ t₁) where
+  toFun := γ ∘ (subpathAux t₀ t₁)
+  source' := by rw [comp_apply, subpathAux_zero]
+  target' := by rw [comp_apply, subpathAux_one]
+
+/-- Reversing `γ.subpath t₀ t₁` yields `γ.subpath t₁ t₀`. -/
+@[simp]
+theorem subpath_symm (γ : Path a b) (t₀ t₁ : I) : (γ.subpath t₀ t₁).symm = γ.subpath t₁ t₀ := by
```
Comment (wwylele) [inline Mathlib/Topology/Subpath.lean]:
```suggestion
theorem symm_subpath (γ : Path a b) (t₀ t₁ : I) : (γ.subpath t₀ t₁).symm = γ.subpath t₁ t₀ := by
```
function name appears first in the name for function application, though this isn't consistent in existing lemmas (like [this](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Path.html#Path.refl_symm) and [this](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Path.html#Path.symm_cast)), so I might not be right

Same comment for `range` lemmas below

File: Mathlib/Topology/Subpath.lean [hunk 2]
```diff
@@ -0,0 +1,155 @@
...
+  ext s
+  simp [subpath, add_comm]
+
+@[simp]
+lemma subpath_range₀ (γ : Path a b) (t₀ t₁ : I) (h : t₀ ≤ t₁) :
```
Comment (wwylele) [inline Mathlib/Topology/Subpath.lean]:
```suggestion
lemma range_subpath₀ (γ : Path a b) (t₀ t₁ : I) (h : t₀ ≤ t₁) :
```
Also I am not sure about the policy for using ₀ in the name. Perhaps this should be named as `subpath_range_of_le`? (and then `subpath_range₁` would be `range_subpath_of_ge`, with less-than in `h : t₁ ≤ t₀` kept as-is)

File: Mathlib/Topology/Subpath.lean (hunk 1 above)
Comment (Sebi-Kumar) [reply Mathlib/Topology/Subpath.lean]: Thanks for the feedback! I named it after lemmas like `Path.symm_range` (as you mentioned), but I hadn’t noticed this differs from other results (I’m still getting used to Mathlib’s naming conventions). Do you know if there’s a reason for the inconsistency, or is it just historical?

File: Mathlib/Topology/Subpath.lean (hunk 2 above)
Comment (Sebi-Kumar) [reply Mathlib/Topology/Subpath.lean]: I think the names `subpath_range_of_le` and `subpath_range_of_ge` make a lot more sense, so I changed those.

File: Mathlib/Topology/Subpath.lean (hunk 1 above)
Comment (wwylele) [reply Mathlib/Topology/Subpath.lean]: My guess is this is historical. I opened a thread https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Naming.20convention.3A.20function.20application/with/533594742 asking for clarification

Comment (Sebi-Kumar) [reply Mathlib/Topology/Subpath.lean]: I changed the names in response to the thread. Thanks for asking on Zulip, I didn't know about the core naming convention doc either.

File: Mathlib/Topology/Subpath.lean [hunk 3]
```diff
@@ -0,0 +1,155 @@
...
+    intro _
+    congr
+    · exact subpathAux_one t₁ t₂
+    · exact subpathAux_one t₁ t₂
+    · rw [subpathAux_one, subpath_self]
+  prop' := by
+    intro _ _ hx
+    rcases hx with rfl | rfl
+    · simp
+    · simp
```
Comment (FrankieNC) [inline Mathlib/Topology/Subpath.lean]:
```suggestion
    rcases hx with rfl | rfl
    all_goals simp
```

File: Mathlib/Topology/Subpath.lean [hunk 4]
```diff
@@ -0,0 +1,154 @@
...
+    rcases hx with rfl | rfl
+    all_goals simp
+
+/-- Following the subpath of `γ` from `t₀` to `t₁`, and then that from `t₁` to `t₂`,
+is in natural homotopy with following the subpath of `γ` from `t₀` to `t₂`. -/
+def subpathTransSubpath (γ : Path a b) (t₀ t₁ t₂ : I) : Homotopy
+    ((γ.subpath t₀ t₁).trans (γ.subpath t₁ t₂)) (γ.subpath t₀ t₂) := by
+  apply trans
+  · exact subpathTransSubpathRefl γ t₀ t₁ t₂
+  · exact transRefl _
```
Comment (themathqueen) [inline Mathlib/Topology/Subpath.lean]:
```suggestion
    ((γ.subpath t₀ t₁).trans (γ.subpath t₁ t₂)) (γ.subpath t₀ t₂) :=
  trans (subpathTransSubpathRefl γ t₀ t₁ t₂) (transRefl _)
```

**Comment by ADedecker** [comment]
Sorry for leaving this open for so long, I was on holiday so I should have asked someone else for a review. Before going on with the precise review, let me ask a high-level question: it seems to me that, up to homotopy, the only difference between this and `truncate` is the reversal of the path depending on the order of the arguments, is that right? Or is there some other reason I'm missing to prefer this reparametrization over that of `truncate`?

**Comment by Sebi-Kumar** [comment]
You are correct regarding the relationship between `subpath` and `truncate`. However, the theorem I really care about is `subpathTransSubpath`, and the analog of that for `truncate` seemed far more difficult/messy to prove (if there is a clean approach with `truncate`, I would love to know).

File: Mathlib/Topology/Subpath.lean [hunk 5]
```diff
@@ -0,0 +1,152 @@
...
+@[continuity]
+lemma subpathAux_continuous : Continuous (fun x ↦ subpathAux x.1 x.2.1 x.2.2 : I × I × I → I) := by
+  unfold subpathAux
+  fun_prop
+
+/-- The subpath of `γ` from `t₀` to `t₁`. -/
+def subpath (γ : Path a b) (t₀ t₁ : I) : Path (γ t₀) (γ t₁) where
+  toFun := γ ∘ (subpathAux t₀ t₁)
+  source' := by rw [comp_apply, subpathAux_zero]
+  target' := by rw [comp_apply, subpathAux_one]
```
Comment (ADedecker) [inline Mathlib/Topology/Subpath.lean:58]:
```suggestion
/-- `subpathAux` is continuous as an uncurried function `I × I × I → I`. -/
@[continuity, fun_prop]
lemma subpathAux_continuous : Continuous (fun x ↦ subpathAux x.1 x.2.1 x.2.2 : I × I × I → I) := by
  unfold subpathAux
  fun_prop

/-- The subpath of `γ` from `t₀` to `t₁`. -/
def subpath (γ : Path a b) (t₀ t₁ : I) : Path (γ t₀) (γ t₁) where
  toFun := γ ∘ (subpathAux t₀ t₁)
  source' := by rw [comp_apply, subpathAux_zero]
  target' := by rw [comp_apply, subpathAux_one]
  continuous_toFun := by fun_prop
```
While the automatic call to `continuity` works, `fun_prop` tends to be faster (and indeed it is in that case). Unfortunately the library is still not entirely adapted to this fact, hence the default call to `continuity`.

File: Mathlib/Topology/Subpath.lean [hunk 6]
```diff
@@ -0,0 +1,152 @@
...
+
+/-- The range of a subpath is the image of the original path on the relevant interval. -/
+@[simp]
+theorem range_subpath (γ : Path a b) (t₀ t₁ : I) :
+    range (γ.subpath t₀ t₁) = γ '' (uIcc t₀ t₁) := by
+  rcases le_total t₀ t₁ with h | h
+  · rw [uIcc_of_le h]
+    exact range_subpath_of_le _ _ _ h
+  · rw [uIcc_of_ge h]
+    exact range_subpath_of_ge _ _ _ h
```
Comment (ADedecker) [inline Mathlib/Topology/Subpath.lean]: Since your proof in the `le` case only uses the convexity of intervals, you can do the general case in the same way and then deduce the `le` and `ge` cases:
```suggestion
lemma subpathAux_range (t₀ t₁ : I) : range (subpathAux t₀ t₁) = uIcc t₀ t₁ := by
  rw [range_eq_iff]
  constructor
  · intro s
    exact convex_uIcc (t₀ : ℝ) t₁ left_mem_uIcc right_mem_uIcc
      (one_minus_nonneg s) (nonneg s) (sub_add_cancel _ _)
  · intro t (ht : (t : ℝ) ∈ uIcc (t₀ : ℝ) (t₁ : ℝ))
    rw [← segment_eq_uIcc, segment_eq_image] at ht
    obtain ⟨s, hs, hst⟩ := ht
    use ⟨s, hs⟩
    ext
    exact hst

/-- The range of a subpath is the image of the original path on the relevant interval. -/
@[simp]
theorem range_subpath (γ : Path a b) (t₀ t₁ : I) :
    range (γ.subpath t₀ t₁) = γ '' (uIcc t₀ t₁) := by
  rw [← subpathAux_range, ← range_comp]
  rfl

lemma range_subpath_of_le (γ : Path a b) (t₀ t₁ : I) (h : t₀ ≤ t₁) :
    range (γ.subpath t₀ t₁) = γ '' (Icc t₀ t₁) := by
  simp [h]

lemma range_subpath_of_ge (γ : Path a b) (t₀ t₁ : I) (h : t₁ ≤ t₀) :
    range (γ.subpath t₀ t₁) = γ '' (Icc t₁ t₀) := by
  simp [h]
```
Note 1: I removed the `@[simp]` attribute from the last two lemmas because `simp` can already prove them from the general case. In fact this was already the case in your setting, and I don't know why the linter didn't complain.

Note 2: The proof of `subpathAux_range` is so complicated only because we lack facts like [Set.image_subtype_val_Icc](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Interval/Set/OrdConnected.html#Set.image_subtype_val_Icc) for unordered intervals, which is a bit annoying :/

File: Mathlib/Topology/Subpath.lean [hunk 7]
```diff
@@ -0,0 +1,152 @@
...
+    simp only [Path.trans, coe_mk', ContinuousMap.coe_mk, comp_apply]
+    apply continuous_if_le
+    · exact Continuous.comp' continuous_induced_dom continuous_snd
+    · exact continuous_const
+    · simp [extend, IccExtend, projIcc, subpath]
+      fun_prop
+    · simp [extend, IccExtend, projIcc, subpath]
+      fun_prop
+    · intro _ hx
+      simp [hx]
```
Comment (ADedecker) [inline Mathlib/Topology/Subpath.lean]: The lemma you're missing here is [Path.trans_continuous_family](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Path.html#Path.trans_continuous_family):
```suggestion
    let γ₁ (t : I) := γ.subpath t₀ (subpathAux t₁ t₂ t)
    let γ₂ (t : I) := γ.subpath (subpathAux t₁ t₂ t) t₂
    refine Path.trans_continuous_family γ₁ ?_ γ₂ ?_ <;>
    refine γ.subpath_continuous_family.comp (.prodMk ?_ <| .prodMk ?_ ?_) <;>
    fun_prop
```

For some obscure reason `fun_prop` fails to use `γ.subpath_continuous_family` by itself so it's not perfect, but I would say this is quite good.

**Review by ADedecker — COMMENTED** [review]
Here is a first round of comments and suggestions. Do not hesitate to ask for details on anything if I'm not clear!

**Comment by ADedecker** [comment]
> You are correct regarding the relationship between `subpath` and `truncate`. However, the theorem I really care about is `subpathTransSubpath`, and the analog of that for `truncate` seemed far more difficult/messy to prove (if there is a clean approach with `truncate`, I would love to know).

I thought a bit about this, and indeed I think you would not be able to avoid an explicit reparametrization if you work with truncate. I think this is good enough motivation, especially because the similar theorem for truncation can then be deduced by reducing to the `subpath` case.

File: Mathlib/Topology/Subpath.lean (hunk 6 above)
Comment (Sebi-Kumar) [reply Mathlib/Topology/Subpath.lean]: I like this re-organization. But should the first lemma be called `range_subpathAux` instead of `subpathAux_range`?

Comment (ADedecker) [reply Mathlib/Topology/Subpath.lean]: Yes,you're right!

File: Mathlib/Topology/Subpath.lean [hunk 8]
```diff
@@ -0,0 +1,145 @@
...
+namespace Homotopy
+
+/-- Auxillary homotopy for `Path.Homotopy.subpathTransSubpath` which includes an unnecessary
+copy of `Path.refl`. -/
+def subpathTransSubpathRefl (γ : Path a b) (t₀ t₁ t₂ : I) : Homotopy
+    ((γ.subpath t₀ t₁).trans (γ.subpath t₁ t₂)) ((γ.subpath t₀ t₂).trans (Path.refl _)) where
+  toFun x := ((γ.subpath t₀ (subpathAux t₁ t₂ x.1)).trans (γ.subpath _ t₂)) x.2
+  /- Technical note: One would hope the proof of continuity could be made much simpler by using
+  a theorem like `Continuous.pathExtend`, but that does not work in this case because the
+  endpoints of our subpaths depend on our input `x` (i.e., the types don't quite match). -/
```
Comment (ADedecker) [inline Mathlib/Topology/Subpath.lean]: Is this comment still relevant? Maybe you can keep a comment about the general awkwardness caused by the dependency.

File: Mathlib/Topology/Subpath.lean [hunk 9]
```diff
@@ -0,0 +1,145 @@
...
+  continuous_toFun := by
+    let γ₁ (t : I) := γ.subpath t₀ (subpathAux t₁ t₂ t)
+    let γ₂ (t : I) := γ.subpath (subpathAux t₁ t₂ t) t₂
+    refine Path.trans_continuous_family γ₁ ?_ γ₂ ?_ <;>
+    refine γ.subpath_continuous_family.comp (.prodMk ?_ <| .prodMk ?_ ?_) <;>
+    fun_prop
+  map_zero_left := by
+    intro _
+    congr
+    repeat exact subpathAux_zero t₁ t₂
```
Comment (ADedecker) [inline Mathlib/Topology/Subpath.lean]:
```suggestion
    rw [subpathAux_zero]
    rfl
```

File: Mathlib/Topology/Subpath.lean [hunk 10]
```diff
@@ -0,0 +1,145 @@
...
+  map_one_left := by
+    intro _
+    congr
+    · exact subpathAux_one t₁ t₂
+    · exact subpathAux_one t₁ t₂
+    · rw [subpathAux_one, subpath_self]
```
Comment (ADedecker) [inline Mathlib/Topology/Subpath.lean]:
```suggestion
    rw [subpathAux_one, subpath_self]
    rfl
```

File: Mathlib/Topology/Subpath.lean [hunk 11]
```diff
@@ -0,0 +1,145 @@
...
+  prop' := by
+    intro _ _ hx
+    rcases hx with rfl | rfl
+    all_goals simp
```
Comment (ADedecker) [inline Mathlib/Topology/Subpath.lean]:
```suggestion
    rcases hx with rfl | rfl <;>
    simp
```
This is a bit of a matter of taste, but since you only have the two goals coming from the `rcases` I find this clearer.

File: Mathlib/Topology/Subpath.lean [hunk 12]
```diff
@@ -0,0 +1,145 @@
...
+
+/-- Following the subpath of `γ` from `t₀` to `t₁`, and then that from `t₁` to `t₂`,
+is in natural homotopy with following the subpath of `γ` from `t₀` to `t₂`. -/
+def subpathTransSubpath (γ : Path a b) (t₀ t₁ t₂ : I) : Homotopy
+    ((γ.subpath t₀ t₁).trans (γ.subpath t₁ t₂)) (γ.subpath t₀ t₂) :=
+  trans (subpathTransSubpathRefl γ t₀ t₁ t₂) (transRefl _)
+
+/- Possible extension: It may be worth proving that `Path.truncateOfLE` and `Path.subpath` are
+reparameterizations of one another. -/
```
Comment (ADedecker) [inline Mathlib/Topology/Subpath.lean]: Could you upgrade this to a `TODO` in the module docstring?

File: Mathlib/Topology/Subpath.lean [hunk 13]
```diff
@@ -0,0 +1,145 @@
...
+/-!
+# Subpaths
+
+This file defines `Path.subpath` as a restriction of a path to a subinterval,
+reparameterized to have domain `[0, 1]` and possibly with a reverse of direction.
+
+The main result `Path.Homotopy.subpathTransSubpath` shows that subpaths concatenate nicely.
+In particular: following the subpath of `γ` from `t₀` to `t₁`, and then that from `t₁` to `t₂`,
+is in natural homotopy with following the subpath of `γ` from `t₀` to `t₂`.
+-/
```
Comment (ADedecker) [inline Mathlib/Topology/Subpath.lean:27]: Could you write a small paragraph here comparing this with `truncate`? In particular, I think it would be useful to mention:
- `subpath` allows for unified treatment independent of the ordering of `t₀` and `t₁`
- in the `t₀ ≤ t₁` case, they are homotopy equivalent (not yet proven)
- nevertheless, having both is useful when one needs to work very concretely with paths, e.g when building homotopies explicitly
- in fact, once we have the homotopy between `truncate` and `subpath`, one will be able to translate results one way or the other to choose the most convenient representation

(Feel free to ignore/change some of the above, these are just suggestions based on how I understand the situation)

**Comment by ADedecker** [comment]
Just a procedure note: once you have adressed or answered (this includes asking for more details) all comments from a reviewer, you should remove the "awaiting-author" label. Otherwise your PR risks getting ignored as we tend to filter based on tags!

File: Mathlib/Topology/Subpath.lean [hunk 14]
```diff
@@ -0,0 +1,147 @@
...
+# Subpaths
+
+This file defines `Path.subpath` as a restriction of a path to a subinterval,
+reparameterized to have domain `[0, 1]` and possibly with a reverse of direction.
+
+The main result `Path.Homotopy.subpathTransSubpath` shows that subpaths concatenate nicely.
+In particular: following the subpath of `γ` from `t₀` to `t₁`, and then that from `t₁` to `t₂`,
+is in natural homotopy with following the subpath of `γ` from `t₀` to `t₂`.
+
+`Path.subpath` is similar in behavior to `Path.truncate`. When t₀ ≤ t₁, they are reparamterizations
```
Comment (jcommelin) [inline Mathlib/Topology/Subpath.lean]:
```suggestion
`Path.subpath` is similar in behavior to `Path.truncate`. When t₀ ≤ t₁, they are reparameterizations
```

**Comment by jcommelin** [comment]
Sorry that this took awefully long to get reviewed. This looks good to me.

Thanks :tada:

bors merge
